US08232390B2
1M aq. KOH (15 eq.) was added to a 0.08M solution of methyl 2-[2-(benzyloxy)phenyl]-3-cyclohexyl-1-{[(7aR)-3-oxodihydro-1H-pyrrolo[1,2-c][1,3]oxazol-7a(5H)-yl]methyl}-1H-indole-6-carboxylate in MeOH, and the mixture was refluxed for 2 days. After quenching with an equivalent amount of aq. HCl and evaporation of volatiles, the residue was taken in toluene:MeOH 4:1 (0.1M) and treated at RT with excess (2.5 eq.) TMS-diazomethane for 1 h; evaporation of solvents gave crude methyl 2-[2-(benzyloxy)phenyl]-3-cyclohexyl-1-{[(2R)-2-(hydroxymethyl)pyrrolidin-2-yl]methyl}-1H-indole-6-carboxylate. To a 0.1M solution of this material in dry DCM were added TEA (3 eq.) and Boc2O (1.5 eq.) and the mixture was stirred at RT overnight, after quenching with sat NaHCO3 the mixture was extracted with EtOAc, washed with brine, dried and concentrated; chromatography (PE/EtOAc 2:1) afforded the title compound (57%).

reactant | KOH | 1M, 15 eq. | [OH-].[K+]
reactant | methyl 2-[2-(benzyloxy)phenyl]-3-cyclohexyl-1-{[(7aR)-3-oxodihydro-1H-pyrrolo[1,2-c][1,3]oxazol-7a(5H)-yl]methyl}-1H-indole-6-carboxylate | C(C1=CC=CC=C1)OC1=C(C=CC=C1)C=1N(C2=CC(=CC=C2C1C1CCCCC1)C(=O)OC)C[C@@]12N(C(OC1)=O)CCC2 | C36H38N2O5
reactant | TMS-diazomethane | 2.5 eq. | [Si](C)(C)(C)C=[N+]=[N-] | C4H10N2Si
solvent | MeOH | CO | CH4O
product | methyl 2-[2-(benzyloxy)phenyl]-3-cyclohexyl-1-{[(2R)-2-(hydroxymethyl)pyrrolidin-2-yl]methyl}-1H-indole-6-carboxylate | C(C1=CC=CC=C1)OC1=C(C=CC=C1)C=1N(C2=CC(=CC=C2C1C1CCCCC1)C(=O)OC)C[C@@]1(NCCC1)CO | C35H40N2O4
